US05714496
A solution of 4-iodoacetophenone (6.15 g) in N,N-dimethylformamide dimethyl acetal (6.5 ml) was heated at reflux for 8 hours. The reaction mixture was evaporated and the solid residue was recrystallised from acetonitrile to give 1-(4-iodophenyl)-3-dimethylamino-2-propen-1-one (4.38 g), as a solid, m.p. 117°-118° C.; NMR(CDCl3): 2.60-3.50(6H,br.d), 5.64(1H,d), 7.62(2H,d), 7.77(2H,d) and 7.80(1H,d), m/z 302(M+H). A mixture of 1-(4-iodophenyl)-3-dimethylamino-2-propen-1-one (3.0 g) and hydroxylamine hydrochloride (0.73 g) in 1:1 dioxane/water (30 ml) was stirred at ambient temperature for 48 hours. Addition of water gave a solid which was collected by filtration, washed with water, and purified by flash column chromagatography on silica gel using 1:1 (v/v) ethyl acetate/pentane as eluent. There was thus obtained 5-(4-iodophenyl)-isoxazole (0.6 g); microanalysis found: C, 39.4; H, 2.3; N, 4.8%; C9H6INO requires: C, 39.9; H, 2.23; N, 5.17%; NMR(CDCl3): 6.54(1H,d), 7.52(2H,d), 7.83(2H,d) and 8.28(1H,d); m/e 272(M+H).

reactant | 4-iodoacetophenone | 6.15 g | CC(=O)C1=CC=C(C=C1)I | C8H7IO
reactant | N,N-dimethylformamide dimethyl acetal | 6.5 ml | COC(N(C)C)OC | C5H13NO2
product | 1-(4-iodophenyl)-3-dimethylamino-2-propen-1-one | 4.38 g | IC1=CC=C(C=C1)C(C=CN(C)C)=O | C11H12INO
